US05843910
10 g of N-desacetylthiocolchicine are treated with sodium nitrite to give 4 g of 5,6-dihydro-6(S)-(hydroxymethyl)-1,2,3-trimethoxy-9-methylthio-8H-cyclo-hepta[a]naphthalen-8-one, according to the process described in J. Med. Chem., 36, 544, 1993. The resulting product is treated for 12 hours under reflux in acetonitrile with 26 g of α-bromotetraacetylglucose in the presence of 85 g of mercuric cyanide. Salts are filtered off and the solution is evaporated to dryness, taken up with 70% acetone and treated for two hours with 15% sodium carbonate. The mixture is neutralized, extracted with ethyl acetate and chromatographed on silica gel eluting with a methylene chloride-ethanol 9:1 mixture. 2.1 g of product are obtained, M+ a m/z 536.

reactant | N-desacetylthiocolchicine | 10 g | COC1=C(C(=C2C(=C1)CC[C@@H](C3=CC(=O)C(=CC=C32)SC)N)OC)OC | C20H23NO4S
reactant | sodium nitrite | N(=O)[O-].[Na+]
product | 5,6-dihydro-6(S)-(hydroxymethyl)-1,2,3-trimethoxy-9-methylthio-8H-cyclo-hepta[a]naphthalen-8-one | 4 g | OC[C@@H]1C=2C(C=3C(=C(C(=CC3C1)OC)OC)OC)=CC=C(C(C2)=O)SC | C20H22O5S
